US08133909B2
{(S)-[(3,4-Dimethyl-phenyl)-(2-pyridin-2-yl-ethyl)-carbamoyl]-phenyl-methyl}-carbamic acid tert-butyl ester
In analogy to the procedure described for the synthesis example 21, step 3, the title compound was prepared from (3,4-dimethyl-phenyl)-(2-pyridin-2-yl-ethyl)-amine and boc-L-alpha-phenylglycine. MS (m/e): 460.3 [M+H]+.

reactant | (3,4-dimethyl-phenyl)-(2-pyridin-2-yl-ethyl)-amine | CC=1C=C(C=CC1C)NCCC1=NC=CC=C1 | C15H18N2
reactant | boc-L-alpha-phenylglycine | CC(C)(C)OC(=O)N[C@@H](C1=CC=CC=C1)C(=O)O | C13H17NO4
product | {(S)-[(3,4-Dimethyl-phenyl)-(2-pyridin-2-yl-ethyl)-carbamoyl]-phenyl-methyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](C1=CC=CC=C1)C(N(CCC1=NC=CC=C1)C1=CC(=C(C=C1)C)C)=O)=O | C28H33N3O3
